US07166604B2
(c) Synthesis of 7-Hydroxyquinazolin4-one
A solution of sodium nitrite(1.40 g, 20.32 mmol) in water (17 mL) was added dropwise to a cooled suspension of 7-aminoquinazolin-4-one (712 mg, 4.42 mmol) in sulfuric acid/water (4.4 mL, 18 mL), keeping the temperature at approx. 0° C. The mixture was stirred at room temperature for 2 hours, diluted with water (15 mL) and heated at reflux for 15 minutes. The cooled mixture was neutralised and the precipitate was collected via filtration, and purified by column chromatography (silica) using 10% methanol/ethyl acetate as the eluent. The combined fractions gave an orange solid (541 mg, 76%).

reactant | sodium nitrite | 20.32 mmol, 1.40 g | N(=O)[O-].[Na+]
reactant | 7-aminoquinazolin-4-one | 4.42 mmol, 712 mg | NC1=CC=C2C(NC=NC2=C1)=O | C8H7N3O
solvent | water | 17 mL | O | H2O
solvent | sulfuric acid water | 4.4 mL | S(O)(O)(=O)=O.O
solvent | water | 15 mL | O | H2O
product | 7-Hydroxyquinazolin4-one | 541 mg, 76% | OC1=CC=C2C(NC=NC2=C1)=O | C8H6N2O2
